US04882329
(e) 3-Benzyl-3-(2-hydroxyphenyl)-1-methylindolin-2-one
25 g (0.073 mol) of 3-benzyl-1-methyl-3-(2-methoxyphenyl)- indolin-2-one are dissolved in 250 ml of methylene chloride. The solution is cooled to 0°-5° and a solution of 7 ml (0.074 mol) of boron tribromide in 50 ml of methylene chloride is added dropwise over the course of 30 minutes, and the mixture is then stirred at room temperature for 1 hour and poured onto ice-water. The organic phase is separated off, washed twice with water, dried over magnesium sulfate and concentrated. 17.8 g of crystalline product of melting point 188°-190° C. are obtained.

reactant | 3-benzyl-1-methyl-3-(2-methoxyphenyl)- indolin-2-one | 0.073 mol, 25 g | C(C1=CC=CC=C1)C1(C(N(C2=CC=CC=C12)C)=O)C1=C(C=CC=C1)OC | C23H21NO2
reactant | boron tribromide | 0.074 mol, 7 ml | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-Benzyl-3-(2-hydroxyphenyl)-1-methylindolin-2-one | 17.8 g | C(C1=CC=CC=C1)C1(C(N(C2=CC=CC=C12)C)=O)C1=C(C=CC=C1)O | C22H19NO2
